data/mechanism_extracts/ChemSci/10.1039_d0sc01078b.json
{"doi": "10.1039_d0sc01078b", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrooxidative [3+2] annulation of phenols with electron-deficient alkenes (cinnamates) to give C3-functionalized 2-aryl-2,3-dihydrobenzofurans under undivided-cell conditions with cathodic H2 evolution.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of the electron-rich phenol generates a phenoxyl/aryl radical (I); a later anodic oxidation of the post-addition benzylic radical to a stabilized benzylic cation enables intramolecular O-cyclization; cathode reduces protons to H2.", "key_intermediates": [{"name": "phenoxyl/aryl C-radical from anodic oxidation of phenol 1 (radical I, drawn as ortho-C-radical / phenoxyl resonance form)", "smiles": null, "role": "reactive"}, {"name": "Int-a-I: adduct radical from α-addition of aryl radical I to cinnamate 2a (favored)", "smiles": null, "role": "reactive"}, {"name": "Int-a-II: dienone/keto tautomer after rearomatization, still C-radical α to ester", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation α to CO2Et formed by SET oxidation of Int-a-II (stabilized by p-methoxyphenyl)", "smiles": null, "role": "transient"}, {"name": "Int-b-I / Int-b-II: β-addition counterparts (disfavored pathway)", "smiles": null, "role": "off_pathway"}, {"name": "Dimer 5 from radical I self-coupling (observed when 2a is absent or with electron-rich 1o)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes phenol 1 by SET to give aryl/phenoxyl radical I; I adds regioselectively to the α-carbon of cinnamate 2a yielding a benzylic C-radical (Int-a-I→Int-a-II after rearomatization); a second anodic SET oxidizes this radical to a benzylic cation that is trapped intramolecularly by the phenolic OH to close the 2,3-dihydrobenzofuran ring, while the cathode reduces protons to H2.", "rate_determining_step": "Regioselective α-addition of aryl radical I to the electron-deficient alkene (TS-a-I, ΔG‡ = +24.0 kcal/mol; β-addition TS-b-I = +30.4 kcal/mol).", "probe_reagents": [{"name": "electron-rich phenol 1o (control substrate, no alkene partner / outcompetes addition)", "smiles": null, "purpose": "intermediate_trap", "observation": "In absence of efficient trapping by 2a, 1o dimerizes to give 5 in 87% yield with >95% recovery of 2a, evidencing anodic generation of aryl radical I."}, {"name": "DFT (U)M06-2X(D3)/6-311+G(d,p)//(U)B3LYP-D3/6-31G(d) in CF3CH2OH/CH2Cl2", "smiles": null, "purpose": "other", "observation": "α-addition TS (+24.0) lower than β (+30.4); Int-a-II (-0.6) more stable than Int-b-II (+3.8), rationalizing exclusive α-regioselectivity."}, {"name": "X-ray crystallography of 3ac", "smiles": null, "purpose": "other", "observation": "Confirms 2,3-trans stereochemistry of the dihydrobenzofuran product."}], "evidence_types_used": ["DFT", "isolation_of_intermediate", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Authors explicitly compare α- vs β-radical-addition pathways with DFT; α-pathway is both kinetically and thermodynamically favored due to stabilization of the resulting radical/cation by the p-methoxyphenyl group of the cinnamate. The dimerization experiment with 1o supports anodic generation of a phenol-derived radical but does not directly rule out a phenoxenium (2e) pathway; no TEMPO/BHT trapping or KIE reported. HFIP cosolvent likely stabilizes cationic intermediates in the radical-polar crossover step."}
